US09120822B2
Concentrated sulfuric acid (36N, 50 mL) is added dropwise at room temperature to a stirred suspension of 3-hydroxy-6-methoxyquinoline-4-carboxylic acid (14.5 g, 66.15 mmol, 1.0 eq) in methanol (250 mL) and the resulting mixture is heated at 65° C. for 36 hours. Solvent is then evaporated and the residue is quenched with the dropwise addition at 0° C. of saturated sodium hydrogen carbonate aqueous solution. The resulting precipitate is collected by filtration and dried under vacuum to afford 3-hydroxy-6-methoxyquinoline-4-carboxylic acid methyl ester as an off-white powder (15.0 g, 97% yield).

reactant | sulfuric acid | 36N, 50 mL | S(O)(O)(=O)=O | H2O4S
reactant | 3-hydroxy-6-methoxyquinoline-4-carboxylic acid | 66.15 mmol, 14.5 g, 1.0 eq | OC=1C=NC2=CC=C(C=C2C1C(=O)O)OC | C11H9NO4
reactant | methanol | 250 mL | CO | CH4O
product | 3-hydroxy-6-methoxyquinoline-4-carboxylic acid methyl ester | 15.0 g, 97% yield | COC(=O)C1=C(C=NC2=CC=C(C=C12)OC)O | C12H11NO4
